US04367238
A solution of m-chloroperbenzoic acid (1.3 g) in chloroform (20 ml) was added dropwise to a solution of 3-methyl-7-(2-chlorophenylthio)-2,3-dihydrobenzofuran-2-one (1.8 g) in chloroform (20 ml) in 10 minutes at a temperature below 6° C. with stirring, and the mixture was stirred at the same temperature for 30 minutes and then filtered. The organic layer was separated, washed with saturated aqueous sodium bicarbonate and water in turn, dried and evaporated under reduced pressure. The oily residue was crystallized with ethanol to give 3-methyl-7-(2-chlorobenzenesulfinyl)-2,3-dihydrobenzofuran-2-one (1.2 g), mp. 120°-122° C.

reactant | m-chloroperbenzoic acid | 1.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-methyl-7-(2-chlorophenylthio)-2,3-dihydrobenzofuran-2-one | 1.8 g | CC1C(OC2=C1C=CC=C2SC2=C(C=CC=C2)Cl)=O | C15H11ClO2S
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methyl-7-(2-chlorobenzenesulfinyl)-2,3-dihydrobenzofuran-2-one | 1.2 g | CC1C(OC2=C1C=CC=C2S(=O)C2=C(C=CC=C2)Cl)=O | C15H11ClO3S
